US07071182B2
1-(2-dimethylamino-ethyl)-1H-indazol-6-ylamine
A mixture of dimethyl-[2-(6-nitro-indazol-1-yl)-ethyl]-amine (1 g, 4.3 mmol), iron powder (1.9 g, 34 mmol), and ammonium chloride (120 mg, 2.2 mmol) in a 4:1 Ethanol/H2O solution (20 mL) was heated to reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was stirred in triethylamine/ethyl acetate (1/4, 10 mL) for 15 minutes, filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4), and the filtrate concentrated under reduced pressure to provide the title compound (0.8 g, 92%). 1H NMR (300 MHz, DMSO-d6) ppm 2.17 (s, 6H), 2.63(t, J=6.44, 2H), 4.23 (t, J=6.44, 2H), 5.28(s, 2H), 6.50 (m, 2H), 7.35 (m, 1H), 7.69 (m, 1H); MS (DCI/NH3) m/z 205 [M+H]+.

reactant | dimethyl-[2-(6-nitro-indazol-1-yl)-ethyl]-amine | 4.3 mmol, 1 g | CN(CCN1N=CC2=CC=C(C=C12)[N+](=O)[O-])C | C11H14N4O2
reactant | ammonium chloride | 2.2 mmol, 120 mg | [Cl-].[NH4+]
catalyst | iron | 34 mmol, 1.9 g | [Fe] | Fe
solvent | Ethanol H2O | 20 mL | C(C)O.O
product | 1-(2-dimethylamino-ethyl)-1H-indazol-6-ylamine | 0.8 g, 92% | CN(CCN1N=CC2=CC=C(C=C12)N)C | C11H16N4
